US08227500B2
2-Bromo-5-fluoroisonicotinic acid
To a solution of 2-bromo-5-fluoropyridine (5.0 g) in tetrahydrofuran (100 mL) was 2.6 mol/L n-butyllithium tetrahydrofuran solution (12 mL) in a dropwise manner at −70° C., and this mixture was stirred at same temperature for 2 hours. To this reaction mixture was added excessive amounts of dry-ice at −70° C., and this mixture was stirred at room temperature for 12 hours. This mixture was poured into water, and this mixture was extracted with diethyl ether. To this obtained aqueous layer was added 1 mol/L hydrochloric acid (2 mL), and this mixture was extracted with ethyl acetate. This organic layer was concentrated to give the title compound (5.2 g).

reactant | 2-bromo-5-fluoropyridine | 5.0 g | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | n-butyllithium tetrahydrofuran | 2.6 mol/L, 12 mL | O1CCCC1.C(CCC)[Li]
reactant | dry-ice | C(=O)=O | CO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-Bromo-5-fluoroisonicotinic acid | 5.2 g | BrC=1C=C(C(=O)O)C(=CN1)F | C6H3BrFNO2
